US04760163
using ethyl 2-chloro-5-isocyanatobenzoate and ethyl 3-aminocrotonate there is obtained ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}-benzoate, using isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate and ethyl 3-aminocrotonate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}benzoate, m.p. 147°-150° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-methylvinyl]ureido}benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=CC(=O)OCC)C | C17H20ClFN2O5
